US07220856B2
Preparation of 3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-cyclohexanecarboxylic Acid
To a solution of 3-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-cyclohexanecarboxylic acid, methyl ester (150 mg, 0.33 mmol) in THF (20 mL) and water (6 mL) was added LiOH.H2O (28.0 mg). The reaction mixture was stirred at rt overnight, and then solvent was evaporated in vacuo. The resulting residue was acidified to pH 4, the precipitate was collected by filtration and dried to afford the title product. LC-MS: 432 (M++1). 1H NMR (DMSO-d6) δ 1.10 (m, 2H), 1.25 (m, 2H), 1.75 (m, 3H), 1.95 (m, 1H), 2.25 (m, 1H), 3.10 (m, 4H), 3.50 (m, 5H), 6.25 (s, 1H), 6.40 (d, 1H), 7.25 (m, 1H), 7.50 (s, 1H), 780 (d, 1H).

reactant | 3-[[[4-(2-amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-cyclohexanecarboxylic acid, methyl ester | 0.33 mmol, 150 mg | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1CC(CCC1)C(=O)OC)Cl | C22H28ClN5O3
reactant | LiOH.H2O | 28.0 mg | O[Li].O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 6 mL | O | H2O
product | 3-[[[4-(2-Amino-7-chloro-4-quinolinyl)-1-piperazinyl]carbonyl]amino]-cyclohexanecarboxylic Acid | NC1=NC2=CC(=CC=C2C(=C1)N1CCN(CC1)C(=O)NC1CC(CCC1)C(=O)O)Cl | C21H26ClN5O3
